US09388189B2
(S)-2-(1-((5-(5-Fluoro-2-hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(5-Fluoro-2-methoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (55 mg, 0.09 mmol) was treated with boron tribromide (1 M in dichloromethane, 1 mL, 1 mmol) and a solution of ammonia (7N in methanol, 1 mL, 7 mmol) according to the method described in Example 27 to give 20 mg (47% yield) of the title. Purity 94%.

reactant | (S)-2-(1-((5-(5-Fluoro-2-methoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.09 mmol, 55 mg | FC=1C=CC(=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)OC | C34H38FN7O3Si
reactant | boron tribromide | 1 mmol, 1 M, 1 mL | B(Br)(Br)Br | BBr3
reactant | ammonia | 7 mmol, 7N, 1 mL | N | H3N
product | (S)-2-(1-((5-(5-Fluoro-2-hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 47% yield | FC=1C=CC(=C(C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)O | C27H22FN7O2
